Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Oxycodone
 
Attending: ___.
 
Chief Complaint:
Aortic Aneurysm

 
Major Surgical or Invasive Procedure:
___
1. Replacement of ascending aorta and hemiarch using a 28-
    mm Dacron tube graft and deep hypothermic circulatory
    arrest.  The graft data is the following.  It is a
    Vascutek Gelweave graft, catalog number ___, lot
    number ___, serial number ___.
2. CorMatrix reconstruction of the pericardium.
3. Epiaortic duplex scanning.
 
History of Present Illness:
This is a ___ year old female well
known to our service who first presented in ___ with
diagnosis of ascending aortic aneurysm. Aneurysm repair was
delayed at that time due to a colovesicular fistula causing
chronic urinary tract infections. In ___ she underwent
placement of left-sided ureteral stent, sigmoid colectomy,
takedown of colovesicular fistula, mobilization of splenic
flexure and diverting loop ileostomy. In ___ she underwent
successful ileostomy takedown. She is now recovering nicely from
surgery without recurrent urinary tract infections, and presents
again for surgical evaluation. Currently, she remains very
functional and denies chest and back pain, dyspnea on exertion,
orthopnea, PND, palpitations, pedal edema, and cough.
 
Past Medical History:
Aortic Aneurysm
Hypertension
Dyslipidemia
Colonic polyps
Renal Insufficiency 1.45
History of ischemic CVA ___ visual disturbance)
COPD/Asthma
Uterine cancer
Right Lung Nodule, likely carcinoma
Giant Cell Arteritis/Polymyalgia Rheumatica (tx with steroids-
currently on Prednisone 5mg daily)
Obesity
Elevated HgbA1c (while on steroids)
Hypothyroidism
History of + PPD
Elevated CRP
Colovesicular fistula and Diverticulitis
Past Surgical History:
s/p Total Abd Hysterectomy
s/p Temporal artery biopsy
s/p Tonsillectomy
s/p Placement of left-sided ureteral stent, sigmoid colectomy,
takedown of colovesicular fistula, mobilization of splenic
flexure and diverting loop ileostomy
s/p Ileostomy takedown
 
Social History:
___
Family History:
Mother with abd aortic aneurysm. Both parents
with CVAs

 
Physical Exam:
Pulse: 71 Resp: 16   O2 sat: 98% BP: 128/84
Height: 237 lbs      Weight: 66 inches

General: obese female in no acute distress
Skin: Dry [X] intact [X]
HEENT: PERRLA [X] EOMI [X] anicteric sclera;OP unremarkable
Neck:  Supple [X] Full ROM []no JVD
Chest: Lungs clear bilaterally [X]
Heart: RRR [X] Irregular [] Murmur-none
Abdomen: Soft [] non-distended [] non-tender []  
bowel sounds + [];npo HSM, obese
Extremities: Warm [X], well-perfused [X] Edema-none
Varicosities: mild B spider veins
Neuro: Grossly intact; nonfocal exam; MAE ___ strengths
Pulses:
Femoral      Right: 2+  Left:2+
DP           Right: 2+  Left:2+
___           Right: 2+  Left:2+
Radial       Right: 2+  Left:2+

Carotid Bruit        Right: none   Left:none
 
Pertinent Results:
___
Conclusions  
PRE-BYPASS: Left ventricular wall thicknesses and cavity size 
are normal. Overall left ventricular systolic function is low 
normal (LVEF 50-55%). Right ventricular chamber size and free 
wall motion are normal. The ascending aorta is severely dilated. 
The sinotubular junction is intact without effacement. The 
descending thoracic aorta is moderately dilated. There are three 
aortic valve leaflets. The aortic valve leaflets are mildly 
thickened. There is no aortic valve stenosis. Trace aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no pericardial effusion.

POST CPB:

1. Preserved bi-ventricular systolic function
2. Unchanged valvular structure and function
3. Tube graft visualized in ascending aortic position.
4. Intact descending thoracic aorta   

___ 06:30AM BLOOD WBC-7.3 RBC-3.01* Hgb-9.2* Hct-27.2* 
MCV-90 MCH-30.6 MCHC-33.9 RDW-16.3* Plt ___
___ 05:00AM BLOOD WBC-10.0 RBC-2.86* Hgb-9.0* Hct-26.4* 
MCV-92 MCH-31.3 MCHC-33.9 RDW-16.8* Plt ___
___ 06:30AM BLOOD Glucose-129* UreaN-39* Creat-1.2* Na-132* 
K-4.0 Cl-93* HCO3-26 AnGap-17
___ 05:00AM BLOOD Glucose-113* UreaN-37* Creat-1.2* Na-134 
K-4.3 Cl-98 HCO3-26 AnGap-14
___ 06:30AM BLOOD Mg-2.1
___ 05:00AM BLOOD Calcium-9.5 Phos-3.7 Mg-2.1
 
Brief Hospital Course:
The patient was brought to the Operating Room on ___ where 
the patient underwent ascending aorta and hemiarch replacement.  
 Overall the patient tolerated the procedure well and 
post-operatively was transferred to the CVICU in stable 
condition for recovery and invasive monitoring.  
POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable, weaned from inotropic and 
vasopressor support.  Beta blocker was initiated and the patient 
was gently diuresed toward the preoperative weight.  The patient 
was transferred to the telemetry floor for further recovery.  
She returned to the CVICU overnight for hypotension and 
oliguria.  This improved with hydration, and she returned to the 
telemetry floor.  Cipro was started for positive urinalysis, 
urine culture returned negative and antibiotics were 
discontinued.  Chest tubes and pacing wires were discontinued 
without complication.  The patient was evaluated by the physical 
therapy service for assistance with strength and mobility.  By 
the time of discharge on POD 5 the patient was ambulating 
freely, the wound was healing and pain was controlled with oral 
analgesics.  The patient was discharged home in good condition 
with appropriate follow up instructions.
 
Medications on Admission:
Albuterol MDI prn, Atenolol 50mg daily, Buproprion 150
twice daily, Prozac 40mg daily, Flovent 110 2P twice daily, HCTZ
25mg daily, Avapro 300mg daily, Levothyroxine 250 daily,
Prednisone 5mg daily, Spiriva 18 daily, Aspirin 325 mg daily, MV

 
Discharge Medications:
1. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).
Disp:*60 Tablet(s)* Refills:*2*
2. prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
3. bupropion HCl 150 mg Tablet Extended Release Sig: One (1) 
Tablet Extended Release PO BID (2 times a day).  
4. fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
5. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
6. aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
7. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

9. ferrous sulfate 300  mg (60 mg iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
10. levothyroxine 125 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
11. fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
12. potassium chloride 10 mEq Tablet Extended Release Sig: Two 
(2) Tablet Extended Release PO Q12H (every 12 hours) for 1 
weeks.
Disp:*28 Tablet Extended Release(s)* Refills:*0*
13. furosemide 20 mg Tablet Sig: One (1) Tablet PO twice a day 
for 1 weeks.
Disp:*14 Tablet(s)* Refills:*0*
14. hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q3H (every 
3 hours) as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Aortic Aneurysm
Hypertension
Dyslipidemia
Colonic polyps
Renal Insufficiency 1.45
History of ischemic CVA ___ visual disturbance)
COPD/Asthma
Uterine cancer
Right Lung Nodule, likely carcinoma
Giant Cell Arteritis/Polymyalgia Rheumatica (tx with steroids-
currently on Prednisone 5mg daily)
Obesity
Elevated HgbA1c (while on steroids)
Hypothyroidism
History of + PPD
Elevated CRP
Colovesicular fistula and Diverticulitis
Past Surgical History:
s/p Total Abd Hysterectomy
s/p Temporal artery biopsy
s/p Tonsillectomy
s/p Placement of left-sided ureteral stent, sigmoid colectomy,
takedown of colovesicular fistula, mobilization of splenic
flexure and diverting loop ileostomy
s/p Ileostomy takedown

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Edema 1+

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge

 
Followup Instructions:
___